US04946771
Next, 197.5 g (0.4 mol) of the 1-(2,4,6-trichlorophenyl)-3-(3-nitrobenzamido)-4-pyrazolyl-5-oxo-2-pyrazoline was added to 2l of methanol, to which was added a small amount of Raney nickel. Then 120 ml of hydrazine hydrate was slowly added dropwise with heating and stirring, the mixture rcacted for about 1.5 hours, after which the insolubles were filtered out (while the mixture was hot). The filtrate was poured into water, and the deposited crystals were then filtered and washed with methanol to obtain 127.2 g (68%) of 1-(2,4,6-trichlorophenyl)-3-(3-aminobenzamido)-4-pyrazolyl-5-oxo-2-pyrazoline.

reactant | 1-(2,4,6-trichlorophenyl)-3-(3-nitrobenzamido)-4-pyrazolyl-5-oxo-2-pyrazoline | 0.4 mol, 197.5 g | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=C(C(C1=O)C1=NNC=C1)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C19H11Cl3N6O4
reactant | hydrazine hydrate | 120 ml | O.NN
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | 1-(2,4,6-trichlorophenyl)-3-(3-aminobenzamido)-4-pyrazolyl-5-oxo-2-pyrazoline | 127.2 g, 68% | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=C(C(C1=O)C1=NNC=C1)NC(C1=CC(=CC=C1)N)=O | C19H13Cl3N6O2
